US04410537
Methyl 2,4-dihydroxy-3-formylbenzoate (10.0 g, 0.051 M) was added to dimethylformamide (100 ml), then to this mixture was added sodium hydride (1.344 g, 0.056 M), portionwise. The mixture became warm and effervescence occurred. When the addition was complete the reaction mixture was left to stir at room temperature for 10 minutes. To this solution was then added sodium iodide (0.765 g), ethyl 5-bromovalerate (11.7 g, 0.056 M), and a further 20 ml of dimethylformamide. The whole was brought to 60° C. and left to stir for 5 days. The reaction mixture was cooled, poured into water (200 ml), acidified with concentrated hydrochloric acid, and extracted into ethyl acetate (2×75 ml). The combined organic layers were washed with water (2×75 ml), 5% sodium hydroxide solution (50 ml), water (50 ml) and brine (50 ml), dried (magnesium sulphate), filtered and the solvent removed in vacuo to give ethyl 5-(2-formyl-3-hydroxy-4-methoxycarbonylphenoxy)pentanoate 6.92 g, 42% as a yellow oil, purified by column chromatography and obtained as a pale-yellow solid.

reactant | Methyl 2,4-dihydroxy-3-formylbenzoate | 0.051 M, 10.0 g | OC1=C(C(=O)OC)C=CC(=C1C=O)O | C9H8O5
reactant | sodium hydride | 0.056 M, 1.344 g | [H-].[Na+]
reactant | sodium iodide | 0.765 g | [I-].[Na+]
reactant | ethyl 5-bromovalerate | 0.056 M, 11.7 g | BrCCCCC(=O)OCC | C7H13BrO2
reactant | hydrochloric acid | Cl | ClH
solvent | water | 200 ml | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | ethyl 5-(2-formyl-3-hydroxy-4-methoxycarbonylphenoxy)pentanoate | 6.92 g, 42% | C(=O)C1=C(OCCCCC(=O)OCC)C=CC(=C1O)C(=O)OC | C16H20O7
